US06395905B1
Step 1: 2-(4-Aminophenyl)ethyl carbamic acid tert-butyl ester
A solution of 2-(4-aminophenyl)ethylamine (1 g, 7.3 mmol) in DCM (20 mL) at room temperature was treated with triethylamine (0.82 g, 7.7 mmol). After 10 min the solution was cooled to −5° C. Di-tert-butyldicarbonate (1.68 g, 7.7 mmol) was added portionwise over 10 min and stirred for 30 min before warming to room temperature. NaHCO3 (sat. 2 mL) was added followed by water (40 mL). The organic layer was separated and aqueous re-extracted with DCM (×2). The combined organic layers were dried (K2CO3) and evaporated. The residue was purified by column chromatography on silica gel, eluting with EtOAc:hexane (1:4) to obtain the title compound (1.4 g, 80%) as a yellow solid. 1H NMR (360 MHz, d6-DMSO) δ1.37 (9H, s), 2.49-2.51 (2H, m), 2.99-3.06 (2H, m), 4.83 (2H, s), 6.49 (2H, d, J=8.3 Hz), 6.77-6.80 (1H, m), 6.81 (2H, d, J=8.3 Hz) MS (CI)+237 (M+H)+.

reactant | 2-(4-aminophenyl)ethylamine | 7.3 mmol, 1 g | NC1=CC=C(C=C1)CCN | C8H12N2
reactant | triethylamine | 7.7 mmol, 0.82 g | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyldicarbonate | 7.7 mmol, 1.68 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 2-(4-Aminophenyl)ethyl carbamic acid tert-butyl ester | 1.4 g, 80% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
